US04492707
2-Methyl-3-(1-imidazolyl)-2,3-dihydro-6-bromo-4H-1-benzopyran-4-one was treated with a stoichiometric amount of hydrogen chloride, to give 2-methyl-3-(1-imidazolyl)-2,3-dihydro-6-bromo-4H-1-benzopyran-4-one hydrochloride. m.p. 250° C. (dec.).

reactant | 2-Methyl-3-(1-imidazolyl)-2,3-dihydro-6-bromo-4H-1-benzopyran-4-one | CC1OC2=C(C(C1N1C=NC=C1)=O)C=C(C=C2)Br | C13H11BrN2O2
reactant | hydrogen chloride | Cl | ClH
product | 2-methyl-3-(1-imidazolyl)-2,3-dihydro-6-bromo-4H-1-benzopyran-4-one hydrochloride | Cl.CC1OC2=C(C(C1N1C=NC=C1)=O)C=C(C=C2)Br | InChI=1S/C13H11BrN2O2.ClH/c1-8-12(16-5-4-15-7-16)13(17)10-6-9(14)2-3-11(10)18-8;/h2-8,12H,1H3;1H
